US04479955
A solution of 3.5 g of oxalyl chloride in 5 ml of dry acetonitrile is added dropwise to anhydrous dimethylformamide at -30°. After 20 minutes, 7.0 g of ethyl 4-hydroxy-6,8-dimethoxy-1,7-naphthyridine-3-carboxylate is added at -30°. Reaction temperature is kept between -20° and -30° for 30 minutes, then allowed to warm up to room temperature and evaporated to dryness. Residue is taken up in chloroform, washed with cold sodium bicarbonate aqueous solution, dried over magnesium sulfate, treated with decolorizing charcoal and evaporated to dryness to yield ethyl 4-chloro-6,8-dimethoxy-1,7-naphthyridine-3-carboxylate, m.p. 200°-210°.

reactant | oxalyl chloride | 3.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl 4-hydroxy-6,8-dimethoxy-1,7-naphthyridine-3-carboxylate | 7.0 g | OC1=C(C=NC2=C(N=C(C=C12)OC)OC)C(=O)OCC | C13H14N2O5
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | ethyl 4-chloro-6,8-dimethoxy-1,7-naphthyridine-3-carboxylate | ClC1=C(C=NC2=C(N=C(C=C12)OC)OC)C(=O)OCC | C13H13ClN2O4
